US07659268B2
Methyl 1-(3-bromophenyl)cyclopropanecarboxylate (250 mg, 0.98 mmol), 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) (300 mg, 1.2 mmol), and Pd(dppf)Cl2 (40 mg, 0.048 mmol) were added to a dry flask and placed under N2. Potassium acetate (290 mg, 2.9 mmol) was weighed directly into the flask. The flask was then evacuated and back filled with N2. Anhydrous NFN-dimethylformmaride (DMF) (6 mL) was added and the reaction was heated at 80° C. overnight. The reaction mixture was evaporated to dryness and the resulting material was purified by silica gel chromatography eluting with 2-20% ethyl acetate in hexane to yield methyl 1-(3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)cyclopropanecarboxylate, which was used without further purification.

reactant | Methyl 1-(3-bromophenyl)cyclopropanecarboxylate | 0.98 mmol, 250 mg | BrC=1C=C(C=CC1)C1(CC1)C(=O)OC | C11H11BrO2
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) | 1.2 mmol, 300 mg | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | Potassium acetate | 2.9 mmol, 290 mg | C(C)(=O)[O-].[K+]
catalyst | Pd(dppf)Cl2 | 0.048 mmol, 40 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | methyl 1-(3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)cyclopropanecarboxylate | CC1(OB(OC1(C)C)C=1C=C(C=CC1)C1(CC1)C(=O)OC)C | C17H23BO4
